US06504025B2
Preparation of (6R,7R)-7-[(Z)-2-(5-Amino-[1,2,4]thiadiazol-3-yl)-2-hydroxyimino-acetylamino]-8-oxo-3-[(E)-(R)-2-oxo-[1,3′]bipyrrolidinyl-3-ylidenemethyl]-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic Acid
5.1 (small scale): A suspension of 149 mg of (6R,7R)-7-[(Z)-2-(5-amino-[1,2,4]thiadiazol-3-yl)-2-trityloxyimino-acetylamino]-3-[(E)-(R)-1′-tert.-butoxycarbonyl-2-oxo-[1,3′]bipyrrolidinyl-3-ylidene-methyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid and 0.24 ml of methyl phenyl ether in 0.8 ml of formic acid was treated with 0.26 ml of dichloromethane containing 2% of trifluoroacetic acid and the solution was heated to 30° C. for 3 h after which time HPLC indicated completion of the reaction. The mixture was diluted with 3 ml of toluene and evaporated to dryness. The residue was diluted with 2 ml of methanol and 6 ml of water, the pH was adjusted to 9 by adding diluted ammonia and the aqueous layer was washed three times with ethyl acetate. The pH of the aqueous layer was adjusted to 3 by adding diluted hydrochloric acid and the solution was evaporated to dryness. The residue was digested with t-butyl methyl ether, filtered and the residue dried to give 73 mg of the NMR-pure title compound as a pale yellow solid. 1H-NMR (d6-DMSO+1 equivalent of CF3COOH, only some selected signals given): 7.26 (s, 1H, CH—C(3)); 5.88 (d, J=4.8, 1H, H—C(7)); 5.18 (d, J=4.8, 1H, H—C(6)); 3.88 and 3.86 (d each, J=18 each, 2H, CH2—S(5)); 3.5-2.8 (m, 8H, 4×CH2); 2.2-2.0 (m, 2H, CH2).

reactant | (6R,7R)-7-[(Z)-2-(5-amino-[1,2,4]thiadiazol-3-yl)-2-trityloxyimino-acetylamino]-3-[(E)-(R)-1′-tert.-butoxycarbonyl-2-oxo-[1,3′]bipyrrolidinyl-3-ylidene-methyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 149 mg | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)/C=C\1/C(N(CC1)[C@H]1CN(CC1)C(=O)OC(C)(C)C)=O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C44H44N8O8S2
reactant | methyl phenyl ether | 0.24 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | dichloromethane | 0.26 ml | ClCCl | CH2Cl2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | formic acid | 0.8 ml | C(=O)O | CH2O2
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | (6R,7R)-7-[(Z)-2-(5-Amino-[1,2,4]thiadiazol-3-yl)-2-hydroxyimino-acetylamino]-8-oxo-3-[(E)-(R)-2-oxo-[1,3′]bipyrrolidinyl-3-ylidenemethyl]-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic Acid | 73 mg | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)/C=C\1/C(N(CC1)[C@H]1CNCC1)=O)=N/O | C20H22N8O6S2
